data/mechanisms/records/IMS8-EQ8.82a.json
{"mechanism_id": "IMS8-EQ8.82a", "species": [{"species_id": "hydroxy_ester_molecular_ion", "mapped_smiles": "[CH3:8][CH:7]([OH:9])[CH2:6][CH2:5][CH2:4][CH2:3][CH2:2][C:1](=[O:10])[O+:11][CH3:12]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "alkoxy_radical_oxonium_ion", "mapped_smiles": "[CH3:8][CH:7]([O:9])[CH2:6][CH2:5][CH2:4][CH2:3][CH2:2][C:1](=[O:10])[OH+:11][CH3:12]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hydroxy_ester_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["alkoxy_radical_oxonium_ion"]}], "steps": [{"step_id": "step_rH_hydroxyl_to_ester_oxygen", "from_state": "state_precursor", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [11]}, "target": {"type": "atom", "atom_maps": [9]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_82a", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_hydroxyl_to_ester_oxygen", "support_type": "textbook_proposed", "locator": {"page": 198, "equation": "8.82", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.8, "curator_note": "Top-left panel of Equation 8.82, arrow labelled 'r H' pointing down. The drawn molecular ion is R-CH(OH)-(CH2)n-C(=O)-OCH3 with the charge AND the odd electron printed as '+.' directly above the ester METHOXY oxygen (map 11) -- not above the carbonyl oxygen -- while the hydroxyl oxygen (map 9) is drawn neutral with its H. The product panel below shows that H sitting on the methoxy oxygen (drawn 'H-O(+)CH3') and a radical dot on the former hydroxyl oxygen (alkoxy radical), i.e. the hydroxyl H has migrated to the charge site through a large ring (with R = CH3, n = 5 the transition state counts 10 atoms; the p.197 text calls this 'such a larger-ring transition state (Equations 8.17, 8.82)' and attributes it to the high stability of the resulting neutral RCHO). Book draws 2 arc(s), BOTH single-barb fishhooks: (i) one starting on the hydroxyl O-H bond and sweeping right (the H leaving with one electron) and (ii) one starting at the '+.' odd electron on the methoxy oxygen and sweeping left toward that H (the odd electron pairing up with it). Both drawn arcs terminate on the migrating hydrogen, which cannot carry an atom map (RDKit folds a mapped explicit H into implicit valence), so they are encoded as the single heavy-atom-level move they produce: move <1> = the odd electron relocating from O(11) to O(9). Move <1> is therefore the encoded form of drawn arcs (i)+(ii); no implicit move is needed and the arrow gate reproduces both radical changes exactly. INSTANTIATION (the scheme is generic in R and in the chain length n): R = CH3 and n = 5, i.e. methyl 7-hydroxyoctanoate CH3-CH(OH)-(CH2)5-C(=O)-OCH3 (C9H18O3, M+. m/z 174.1250). n = 5 is the smallest chain that makes the final 'rH, a' step of this same scheme proceed through the favoured six-membered transition state, and it keeps the book's (CH2)n-3 label meaningful ((CH2)2). NO m/z and NO percentage is printed anywhere in Equation 8.82 except 'm/z 55' on the last product; every other mass in these records is the curator's computed monoisotopic value for this instantiation, not a measured number."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 174.125, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_isomerized_molecular_ion", "species_id": "alkoxy_radical_oxonium_ion", "step_id": "step_rH_hydroxyl_to_ester_oxygen", "observed_mz": 174.125, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
